US08685975B2
2-(4-Bromo-3,5-dimethoxyphenyl)thiophene was prepared from 2-bromo-5-iodo-1,3-dimethoxybenzene and thiophen-2-ylboronic acid according to the procedure used in Example 12. Purification by chromatography (0-10% EtOAc-hexanes) gave a yellow solid (0.624 g, 55% yield).

reactant | 2-bromo-5-iodo-1,3-dimethoxybenzene | BrC1=C(C=C(C=C1OC)I)OC | C8H8BrIO2
reactant | thiophen-2-ylboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 2-(4-Bromo-3,5-dimethoxyphenyl)thiophene | BrC1=C(C=C(C=C1OC)C=1SC=CC1)OC | C12H11BrO2S
